US05561235
6-(N,N-Dimethylamino)hexanoyl 2-methyl-2-imidazoline (4)
Dichloromethane (400 mL), 2-methyl-2-imidazoline (56.38 g, 0.637 mol), and triethylamine (283.51 g, 2.802 mol) are placed in a 2000 mL three-necked round bottomed flask equipped with a reflux condenser, internal thermometer, mechanical stirrer, addition funnel, and argon inlet. The solution is brought to reflux and 15 min later a solution of 6-(N,N-Dimethylamino)hexanoyl chloride-hydrochloride (150 g, 0.700 mol), prepared as described in example II, dissolved in dichloromethane (300 mL) is added dropwise over 45 min. The mixture is refluxed for an additional 2 h before being cooled to room temperature. The salts are filtered and washed with methylene chloride. The combined flitrates are washed with 5% NaHCO3 solution (3×300 mL) and water (300 mL), After drying over MgSO4 and filtration, the organic layer is concentrated first by rotary evaporation at 50° C. and then by Kugelrohr distillation at 60°-70° C. (0.2 mm Hg) to give 95.20 g (66%) of an oil which solidifies on standing.

reactant | 2-methyl-2-imidazoline | 0.637 mol, 56.38 g | CC=1NCCN1 | C4H8N2
reactant | triethylamine | 2.802 mol, 283.51 g | C(C)N(CC)CC | C6H15N
reactant | 6-(N,N-Dimethylamino)hexanoyl chloride-hydrochloride | 0.700 mol, 150 g | Cl.CN(C)CCCCCC(=O)Cl
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 6-(N,N-Dimethylamino)hexanoyl 2-methyl-2-imidazoline | 95.20 g, 66% | CN(C)CCCCCC(=O)N1C(=NCC1)C | C12H23N3O
